US07683067B2
2-Hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carboxylic acid
To a mixture of 2-hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carbonitrile (0.10 g, 0.25 mmol) in water (2 mL) was added 1 M aqueous sodium hydroxide solution (1.3 mL, 1.3 mmol) followed by water (1 mL) in a microwave vial. The mixture was subjected to microwave irradiation for 15 min at 140° C. The pH was adjusted to 5 with 2 M HCl. The solid product was collected by filtration, washed with diethyl ether, and dried to afford 0.11 g (89% yield) of the title compound: MS (ESP) m/z 417 (M++1).

reactant | 2-hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carbonitrile | 0.25 mmol, 0.10 g | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C#N | C19H19N5O3S
reactant | sodium hydroxide | 1.3 mmol, 1 M, 1.3 mL | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
reactant | water | 2 mL | O | H2O
reactant | water | 1 mL | O | H2O
product | 2-Hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carboxylic acid | 0.11 g, 89% yield | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C(=O)O | C19H20N4O5S
